US07544690B2
To a suspension of cis-(4-amino-cyclohexyl)-carbamic acid tert-butyl ester (122 mg, 0.57 mmol) in 2-propanol (2 mL) were added tert-butyl-(2-chloro-quinazolin-4-yl)-amine (100 mg, 0.42 mmol) and diisopropylethylamine (180 μL, 1 mmol) and the mixture was heated at 170° C. for 1 hr using a Smith Microwave Synthesizer. The resulting solution was concentrated and purified by column chromatography (silica gel, 3% MeOH in CH2Cl2) to give [4-(4-tert-butylamino-quinazolin-2-ylamino)-cyclohexyl]-carbamic acid tert-butyl ester (112 mg, 65%) as a yellow solid. To a suspension of cis-[4-(4-tert-butylamino-quinazolin-2-ylamino)-cyclohexyl]-carbamic acid tert-butyl ester (95 mg, 0.23 mmol) in CH2Cl2 (3 mL) was added trifluoroacetic acid (2 mL) dropwise. The reaction mixture was stirred at ambient temperature for 2 hr. The solution was concentrated, alkalized with saturated aqueous NaHCO3 and 1 M aqueous sodium hydroxide (pH=9), and the aqueous layer was extracted with CH2Cl2 (three times). The combined organic layer was dried over MgSO4, filtered, and concentrated. The solid was collected by filtration to give cis-N2-(4-amino-cyclohexyl)-N-tert-butyl-quinazoline-2,4-diamine (44.6 mg, 53%) as a yellow solid.

reactant | cis-(4-amino-cyclohexyl)-carbamic acid tert-butyl ester | 0.57 mmol, 122 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)N)=O | C11H22N2O2
reactant | tert-butyl-(2-chloro-quinazolin-4-yl)-amine | 0.42 mmol, 100 mg | C(C)(C)(C)NC1=NC(=NC2=CC=CC=C12)Cl | C12H14ClN3
reactant | diisopropylethylamine | 1 mmol, 180 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | [4-(4-tert-butylamino-quinazolin-2-ylamino)-cyclohexyl]-carbamic acid tert-butyl ester | 112 mg, 65% | C(C)(C)(C)OC(NC1CCC(CC1)NC1=NC2=CC=CC=C2C(=N1)NC(C)(C)C)=O | C23H35N5O2
